US05416137
Preparation of Pyrogallol Extended Polyepoxide Emulsion I
The following ingredients were charged into a suitable reaction vessel equipped as above: 827 parts Epon 828® (diglycidyl ether of bisphenol A having an equivalent weight of 188), 292 parts of gylcidyl ether of ethoxylated bisphenol A having an epoxy equivalent weight of 365, 456 parts of bisphenol A and 1 part of ethyltriphenyl phosphonium iodide were added. The mixture was heated to 177° C. under a blanket of nitrogen and held at this temperature for 1 hour. 1140 parts of a blocked isocyanate crosslinker solution (described above) and 120 parts of diethanol amine were added. The mixture was held at 202° C. for one hour. The resulting resin was emulsified by adding 85 parts of an 88% lactic acid solution and 4115 parts of deionized water. The resulting emulsion was stripped to remove organic solvent to give and emulsion having a solids content of 35%. The emulsion had a particle size of 925 A (Angstrom).

reactant | Epon 828 | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C1C(O1)CCl
reactant | diglycidyl ether of bisphenol A | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | isocyanate | [N-]=C=O
reactant | diethanol amine | N(CCO)CCO | C4H11NO2
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
catalyst | ethyltriphenyl phosphonium iodide | [I-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | Pyrogallol | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
